US06235787B1
A solution of 1.0 g of 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvaleric acid in 30 ml of acetic acid was hydrogenated over 300 mg of platinum oxide for 1.5 hours. The catalyst was removed by filtration and the solvent was evaporated. Final traces of acetic acid were removed by the addition and evaporation of toluene (3×10 ml). Chromatography on silica gel using diethyl ether/hexane (1:7) for the elution followed by evaporation yielded 0.67 g of 2(R)-[1(S)-(tert-butoxycarbonyl)-4-cyclohexyl-butyl]-4-methylvaleric acid as a white solid.

reactant | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvaleric acid | 1.0 g | C(C)(C)(C)OC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)O)CC(C)C | C21H32O4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 300 mg | [Pt]=O
product | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-cyclohexyl-butyl]-4-methylvaleric acid | 0.67 g | C(C)(C)(C)OC(=O)[C@@H](CCCC1CCCCC1)[C@H](C(=O)O)CC(C)C | C21H38O4
